US04661610
1650 parts of a solution of crude veratryl chloride in toluene, containing 510 parts of veratryl chloride and obtained by chloromethylation of veratrol, were added, in the course of 15 minutes, to a mixture of 305 parts of toluene, 140 parts of acetone, 197 parts of NaCN, 3.1 parts of NaI, 25 parts of H2 and 5.2 parts of triethylamine, the mixture having been preheated to 65° C. After the addition, stirring was continued for a further 1.5 hours at 85° C., after which 700 parts of H2O were added to the mixture, the lower aqueous phase was separated off and the organic phase was washed a second time with 200 parts of H2O. The organic phase was freed from the toluene, and the residue was distilled over a column under 6 mbar and at 162°-164° C. 445 parts (92%) of VCN were obtained. 1.6% of veratryl alcohol were present in the distillate.

reactant | veratryl chloride | C(C1=CC(OC)=C(OC)C=C1)Cl | C9H11ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | veratrol | C=1(C(OC)=CC=CC1)OC | C8H10O2
